US20010003782A1
3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid methyl ester (5.29 g) is reduced with lithium aluminium hydride (1.75 g) in 300 ml of THF at room temperature. After aqueous work-up and crystallisation from ethanol/water, 4.58 g of 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-ol is isolated.

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid methyl ester | 5.29 g | COC(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O | C33H56O3Si
reactant | lithium aluminium hydride | 1.75 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24-ol | 4.58 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCCO)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C32H56O2Si
